US04198514
In the same manner as Example 1-(c), 50 g of methyl 4-(2-chlorophenyl)-3-cyano-3-methoxycarbonylbutyrate was decarboxylated in dimethylsulfoxide to obtain methyl 4-(2-chlorophenyl)-3-cyanobutyrate.

reactant | methyl 4-(2-chlorophenyl)-3-cyano-3-methoxycarbonylbutyrate | 50 g | ClC1=C(C=CC=C1)CC(CC(=O)OC)(C(=O)OC)C#N | C14H14ClNO4
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | methyl 4-(2-chlorophenyl)-3-cyanobutyrate | ClC1=C(C=CC=C1)CC(CC(=O)OC)C#N | C12H12ClNO2
